US08431695B2
Step 2: Preparation of 4-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)butan-1-ol
To a dry flask purged with N2 was added platinum(IV) oxide (440 mg, 1.93 mmol) followed by 4-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)but-3-yn-1-ol (1.30 g, 6.43 mmol) as a solution in acetic acid (50 mL). The mixture was stirred under an H2 atmosphere for 16 h. The mixture was filtered through a pad of Celite®, rinsing with acetic acid and ethanol. The solvent was evaporated under reduced pressure and the residue was taken up in EtOAc (100 mL). The organic was washed with saturated aqueous NaHCO3 (1×100 mL) and the aqueous phase was back extracted with ethyl acetate (3×50 mL). The combined organics were washed with brine, dried (Na2SO4) and concentrated to dryness to afford the 1.2 g (91%) of the desired product. 1H NMR (300 MHz, DMSO-d6) δ 7.77 (s, 1 H), 7.52 (br s, 2 H), 6.78 (d, 1 H), 6.39 (d, 1 H), 4.36 (br s, 1 H), 3.39 (t, 2 H), 2.81 (t, 2H), 1.72-1.61 (m, 2 H), 1.50-1.41 (m, 2 H); ES-MS m/z 207.2 [M+H]+, HPLC RT (min) 1.11.

reactant | 4-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)but-3-yn-1-ol | 6.43 mmol, 1.30 g | NC1=NC=NN2C1=CC=C2C#CCCO | C10H10N4O
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
catalyst | platinum(IV) oxide | 1.93 mmol, 440 mg | [Pt](=O)=O
product | 4-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)butan-1-ol | 1.2 g, 91% | NC1=NC=NN2C1=CC=C2CCCCO | C10H14N4O
